US09388176B2
7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-N-(3-pyrrolidin-1-ylpropyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxamide
To a mixture of 7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxylic acid (40 mg, 0.096 mmol), N,N-diisopropylethylamine (0.050 mL, 0.29 mmol), and catalytic DMAP in 2.5 mL 1,2-dichloroethane at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.069 mL, 0.116 mmol). After 6 min at rt, 1-(3-Aminopropyl)pyrrolidine (16.0 mg, 0.125 mmol) was added and the reaction stirred at rt for 4 hours. The reaction was quenched with aqueous NaHCO3 solution, extracted with EtOAc, the EtOAc layer washed with H2O, aqueous Na2CO3 solution, brine, dried with anhydrous Na2SO4 and rotary evaporated. The sample was triturated with EtOAc, and the filtrate chromatographed eluting with CHCl3/MeOH plus triethylamine to give the title compound as a light beige solid (27 mg, 53%). 1H NMR (CDCl3) δ: 8.50 (s, 1H), 8.36-8.44 (m, 2H), 8.10 (s, 1H), 7.58 (s, 1H), 7.46-7.54 (m, 2H), 7.32-7.39 (m, 1H), 7.22-7.31 (m, 2H), 7.10 (d, J=7.6 Hz, 1H), 7.02 (d, J=7.6 Hz, 1H), 4.46 (s, 2H), 3.53-3.61 (m, 4H), 3.22 (t, J=5.4 Hz, 2H), 2.77-2.97 (m, 7H), 1.82-1.99 (m, 6H), 1.27 (d, J=6.7 Hz, 6H)

reactant | 7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxylic acid | 0.096 mmol, 40 mg | C(C)(C)C=1C=C(C=CC1)NC(=O)C=1C=C(C=CC1)N1CCC=2C(=CN=CC2C1)C(=O)O | C25H25N3O3
reactant | N,N-diisopropylethylamine | 0.29 mmol, 0.050 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propylphosphonic anhydride | 0.116 mmol, 0.069 mL | CCCP(=O)=O | C3H7O2P
reactant | 1-(3-Aminopropyl)pyrrolidine | 0.125 mmol, 16.0 mg | NCCCN1CCCC1 | C7H16N2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 2.5 mL | ClCCCl | C2H4Cl2
product | 7-(3-{[(3-isopropylphenyl)amino]carbonyl}phenyl)-N-(3-pyrrolidin-1-ylpropyl)-5,6,7,8-tetrahydro-2,7-naphthyridine-4-carboxamide | 27 mg, 53% | C(C)(C)C=1C=C(C=CC1)NC(=O)C=1C=C(C=CC1)N1CCC=2C(=CN=CC2C1)C(=O)NCCCN1CCCC1 | C32H39N5O2
